US06211215B1
Sodium hydride (90 mg) was added to a solution of 1-[3-(4-hydroxyphenyl)propyl]imidazole (405 mg) in N,N-dimethyl formamide at room temperature and stirred for 1.5 hours. 4-Chloromethyl-2-(2-thienyl)oxazole (480 mg) was added, and the resultant was stirred at 90° C. for further 2 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure. The residue was subjected to a silica gel chromatography. From the fraction eluted with ethyl acetate-methanol (50:1, v/v), 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-thienyl)oxazole (650 mg, 89%) was obtained. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 84-85° C.

reactant | Sodium hydride | 90 mg | [H-].[Na+]
reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | 405 mg | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-Chloromethyl-2-(2-thienyl)oxazole | 480 mg | ClCC=1N=C(OC1)C=1SC=CC1 | C8H6ClNOS
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-thienyl)oxazole | 650 mg, 89% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)C=2SC=CC2)C=C1 | C20H19N3O2S
